US07557114B2
(a) 4,5-Bis-chloromethyl-2-trifluoromethyl-pyridine
To a room temperature suspension of 2.5 mmol (5-Hydroxymethyl-2-trifluoromethyl-pyridin-4-yl)-methanol (CAS: 765298-25-7) in 3 ml dichloromethane was added dropwise 12.5 mmol thionylchloride. After 1 hour, the reaction mixture was evaporated in vacuo. The residue was dissolved in dichloromethane and washed with saturated sodium bicarbonate solution, dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by chromatography (SiO2, heptane/ethyl acetate) to yield the title compound as a light yellow oil (66% yield). MS (m/e): 243.0 (M−H, 100%)

reactant | (5-Hydroxymethyl-2-trifluoromethyl-pyridin-4-yl)-methanol | 2.5 mmol | OCC=1C(=CC(=NC1)C(F)(F)F)CO | C8H8F3NO2
reactant | thionylchloride | 12.5 mmol | S(=O)(Cl)Cl | Cl2OS
reactant | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 4,5-Bis-chloromethyl-2-trifluoromethyl-pyridine | 66% yield | ClCC1=CC(=NC=C1CCl)C(F)(F)F | C8H6Cl2F3N
